US07868030B2
i) 2-(2-Methoxy-ethyl)-3-methyl-thiophene
This compound was prepared analogous to Example 61, starting with 2-bromo-3-methylthiophene (1.5 g, 8.5 mmol) and toluene-4-sulfonic acid 2-methoxy-ethyl ester (2.9 g, 12.7 mmol, 1.5 equiv.) The crude product was purified on silica gel with eluent n-heptane and tert.butylmethyl ether. The title compound was obtained as a light yellow oil, 490 mg. GC-MS (EI): M=156

reactant | 2-bromo-3-methylthiophene | 8.5 mmol, 1.5 g | BrC=1SC=CC1C | C5H5BrS
reactant | toluene-4-sulfonic acid 2-methoxy-ethyl ester | 12.7 mmol, 2.9 g, 1.5 equiv. | COCCOS(=O)(=O)C1=CC=C(C=C1)C | C10H14O4S
product | 2-(2-Methoxy-ethyl)-3-methyl-thiophene | COCCC=1SC=CC1C | C8H12OS
